US06329405B1
(95a) N-[(R)-1-(4-Methoxyphenyl)-ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 6.00 g of 4-methoxyphenyl 3-nitrophenyl ketone and 5.32 g of (R)-1-(4-methoxyphenyl)ethylamine were reacted, to obtain 8.83 of the title compound as a pale yellow oil.

reactant | 4-methoxyphenyl 3-nitrophenyl ketone | 6.00 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)OC | C14H11NO4
reactant | (R)-1-(4-methoxyphenyl)ethylamine | 5.32 g | COC1=CC=C(C=C1)[C@@H](C)N | C9H13NO
product | N-[(R)-1-(4-Methoxyphenyl)-ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine | COC1=CC=C(C=C1)[C@@H](C)NC(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C23H24N2O4
